US04298739
3.2 Grams of 6-hydroxy-3,4-dihydrocarbostyril, 0.9 g of potassium hydroxide, 3.2 g of sodium iodide and 5.0 g of N-methyl-N-(4-chlorobutyryl)cyclohexylamine are added to 50 ml of dimethylsulfoxide, and the mixture is agitated at 70° to 80° C. for 4.5 hours. After the reaction, the reaction solution is poured into 400 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The thus obtained crude crystals are then recrystallized from benzene-petroluem ether to obtain 2.9 g of 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needlelike crystals with melting point of 144°-146° C.

reactant | 6-hydroxy-3,4-dihydrocarbostyril | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | potassium hydroxide | 0.9 g | [OH-].[K+]
reactant | sodium iodide | 3.2 g | [I-].[Na+]
reactant | N-methyl-N-(4-chlorobutyryl)cyclohexylamine | 5.0 g | CN(C(CCCCl)=O)C1CCCCC1 | C11H20ClNO
reactant | NaCl | 400 ml | [Na+].[Cl-]
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril | 2.9 g | CN(C(=O)CCCOC=1C=C2CCC(NC2=CC1)=O)C1CCCCC1 | C20H28N2O3
